** sch_path: /foss/designs/CAD2/DFF_Testbench.sch
.subckt DFF_Testbench

V1 VDD GND 3.3
V2 VSS GND 0
V3 CLK GND 3
V4 D GND 3
V5 RSTn GND 3.3
C1 Qb GND 10f m=1
C2 Q GND 10f m=1
x1 RSTn VDD Q D VSS CLK Qb DFF
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical



.control
save all

** Define input signals
let fclock = 10e6
let clockper = 1/fclock
let inputper = clockper*3
let clocktfr = 0.01*clockper
let clockton = 0.5*clockper - 2*clocktfr
let inputtfr = 0.01*inputper
let inputton = 0.5*inputper - 2*inputtfr

** Define transient params
let tstop = 10*clockper
let tstep = 0.001*clockper

** Set source
alter @v3[DC] = 0.0
alter @v3[PULSE] = [ 0 3.3 150n $&clocktfr $&clocktfr $&clockton $&clockper 0 ]
alter @v4[PULSE] = [ 0 3.3 0 $&inputtfr $&inputtfr $&inputton $&inputper 0]

** Simulations
op
dc v3 0 3.3 0.01
tran $&tstep $&tstop

** Save waveform
write INV_Testbench.raw
.endc


**** end user architecture code
.ends

* expanding   symbol:  CAD2/DFF.sym # of pins=7
** sym_path: /foss/designs/CAD2/DFF.sym
** sch_path: /foss/designs/CAD2/DFF.sch
.subckt DFF RSTn VDD Q D VSS CLK Qb
*.PININFO D:I RSTn:I Q:O Qb:O CLK:B VDD:B VSS:B
x1 VDD c net6 D cbar VSS TRI_STATE_INV
x2 c VDD VSS net1 net6 cbar TGATE
x3 VDD net6 net2 VSS INV
x4 VDD net2 net1 RSTn VSS NAND2
x5 c VDD VSS net2 net4 cbar TGATE
x6 VDD net4 net3 RSTn VSS NAND2
x7 VDD c net4 net3 cbar VSS TRI_STATE_INV
x8 VDD net3 Q VSS INV
x9 VDD net3 net5 VSS INV
x10 VDD net5 Qb VSS INV
x11 VDD CLK cbar VSS INV
x12 VDD cbar c VSS INV
.ends


* expanding   symbol:  CAD2/TRI_STATE_INV.sym # of pins=6
** sym_path: /foss/designs/CAD2/TRI_STATE_INV.sym
** sch_path: /foss/designs/CAD2/TRI_STATE_INV.sch
.subckt TRI_STATE_INV VDD CLK OUT IN CLKN VSS
*.PININFO VSS:B VDD:B CLK:B CLKN:B IN:I OUT:O
M1 net1 CLK VDD VDD pfet_03v3 L=0.28u W=4u nf=1 m=1
M2 OUT IN net1 VDD pfet_03v3 L=0.28u W=4u nf=1 m=1
M3 OUT IN net2 VSS nfet_03v3 L=0.28u W=2u nf=1 m=1
M4 net2 CLKN VSS VSS nfet_03v3 L=0.28u W=2u nf=1 m=1
.ends


* expanding   symbol:  CAD2/TGATE.sym # of pins=6
** sym_path: /foss/designs/CAD2/TGATE.sym
** sch_path: /foss/designs/CAD2/TGATE.sch
.subckt TGATE CLK VDD VSS IN OUT CLKN
*.PININFO IN:I OUT:O CLKN:B CLK:B VDD:B VSS:B
M1 IN CLK OUT VSS nfet_03v3 L=0.28u W=1u nf=1 m=1
M2 IN CLKN OUT VDD pfet_03v3 L=0.28u W=2u nf=1 m=1
.ends


* expanding   symbol:  CAD2/INV.sym # of pins=4
** sym_path: /foss/designs/CAD2/INV.sym
** sch_path: /foss/designs/CAD2/INV.sch
.subckt INV vdd IN OUT vss
*.PININFO IN:I OUT:O vss:B vdd:B
M1 OUT IN vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M2 OUT IN vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
.ends


* expanding   symbol:  CAD2/NAND2.sym # of pins=5
** sym_path: /foss/designs/CAD2/NAND2.sym
** sch_path: /foss/designs/CAD2/NAND2.sch
.subckt NAND2 vdd INO OUT IN1 vss
*.PININFO INO:I IN1:I vdd:B vss:B OUT:O
M1 OUT INO net1 vss nfet_03v3 L=0.28u W=2u nf=1 m=1
M2 net1 IN1 vss vss nfet_03v3 L=0.28u W=2u nf=1 m=1
M3 OUT INO vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M4 OUT IN1 vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
.ends

.GLOBAL GND
